US07799775B2
A mixture of 795 mg of 7-methoxy-(4-methylpiperazin-1-yl)-isoquinoline and 8 ml of 47% aqueous hydrobromic acid solution was heated under reflux for 2.5 hours. After cooling, the solution was neutralized with 20% aqueous sodium hydroxide solution, extracted with chloroform, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (saturated ammonia water:methanol:chloroform=1:10:90) to provide 673 mg (80%) of 7-hydroxy-1-(4-methylpiperazin-1-yl)isoquinoline.

reactant | 7-methoxy-(4-methylpiperazin-1-yl)-isoquinoline | 795 mg | COC1=CC=C2C=CN=C(C2=C1)N1CCN(CC1)C | C15H19N3O
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-hydroxy-1-(4-methylpiperazin-1-yl)isoquinoline | 673 mg, 80% | OC1=CC=C2C=CN=C(C2=C1)N1CCN(CC1)C | C14H17N3O
